US08445510B2
1-(4-{3-[(1S)-1-(2-Chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-1-methyl-1H-pyrazol-3-yl)methanamine
A mixture of (4-bromo-1-methyl-1H-pyrazol-3-yl)methanol (100.0 mg, 0.5235 mmol), diphenylphosphonic azide (0.141 mL, 0.654 mmol), 1,8-diazabicyclo[5.4.0]undec-7-ene (0.106 mL, 0.707 mmol) and DCM (5 mL, 80 mmol) was stirred at rt overnight. The solution was dried in vacuo, and 3-[(S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)-ethyl]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine (15.0 mg, 0.0348 mmol), Pd(PPh3)4 (2 mg, 0.002 mmol), (1,1′bis-(diphenylphosphino)-ferrocene) palladium dichloride (2 mg, 0.003 mmol), K2CO3 (15.0 mg, 0.108 mmol) and 4:1 dioxane:H2O (3 mL, 30 mmol) were added to the flask. The mixture was heated to 95° C. for 1 h. The reaction was cooled to 60° C., and PPh3 (30.0 mg, 0.114 mmol) was added. The solution was heated at 65° C. until all azide was reduced to the primary amine. The organic solvent was removed in vacuo, and the material was extracted with DCM and water at pH=2. The organic layer was removed, and the aq. layer was brought to pH=9 with sat. K2CO3. The material was extracted with DCM, and the organic layer concentrated in vacuo, redissolved in MeOH (1 mL) and purified via HPLC. The fractions containing the pure product were concentrated in vacuo to afford the title compound as a white solid. 1H NMR (400 MHz, CD3OD): δ=1.83 (d, J=7.3 Hz, 3H), 3.69 (s, 3H), 3.96 (s, 3H), 4.09 (q, J=14.5 Hz, 2H), 5.09-5.17 (m, 1H), 6.92 (dd, J=9.1, 4.3 Hz, 1H), 7.12 (t, J=8.8 Hz, 1H), 7.40 (d, J=1.0 Hz, 1H), 7.47 (s, 1H), 7.74 (s, 1H), 8.13 (d, J=2.0 Hz, 1H). MS (ES+): m/z=414.02/416.01 (100/50) [MH+]. HPLC: tR=2.77 min (polar—5 min, ZQ3).

reactant | (4-bromo-1-methyl-1H-pyrazol-3-yl)methanol | 0.5235 mmol, 100.0 mg | BrC=1C(=NN(C1)C)CO | C5H7BrN2O
reactant | diphenylphosphonic azide | 0.654 mmol, 0.141 mL | C1=CC=C(C=C1)OP(=O)(N=[N+]=[N-])OC2=CC=CC=C2 | C12H10N3O3P
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.707 mmol, 0.106 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | DCM | 80 mmol, 5 mL | C(Cl)Cl | CH2Cl2
reactant | 3-[(S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)-ethyl]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine | 0.0348 mmol, 15.0 mg | ClC1=C(C(=CC=C1F)OC)[C@@H](C)C1=CNC2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C | C22H25BClFN2O3
reactant | K2CO3 | 0.108 mmol, 15.0 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | 30 mmol, 3 mL | O | H2O
reactant | PPh3 | 0.114 mmol, 30.0 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | azide | [N-]=[N+]=[N-]
catalyst | Pd(PPh3)4 | 0.002 mmol, 2 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | (1,1′bis-(diphenylphosphino)-ferrocene) palladium dichloride | 0.003 mmol, 2 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-(4-{3-[(1S)-1-(2-Chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-1-methyl-1H-pyrazol-3-yl)methanamine | ClC1=C(C(=CC=C1F)OC)[C@@H](C)C1=CNC2=NC=C(C=C21)C=2C(=NN(C2)C)CN | C21H21ClFN5O
